US04517187
To a stirred solution of 1.0 M borane in tetrahydrofuran (100 ml) maintained under nitrogen at ambient temperature was added cis-1,3,4,6,7,11b-hexahydro-2-hexanoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline (8.3 g, 0.019 m) and the mixture heated to reflux for 3 hours, then cooled in an ice bath and carefully treated with 10% HCl (100 ml). This mixture was heated to reflux for 1 hour, then cooled, and the tetrahydrofuran removed on an aspirator. The residue was treated with 20% NaOH (300 ml) and extracted with chloroform (3×75 ml). The extracts were dried over MgSO4 and evaporated to an oily residue, 12.3 g. This was dissolved in methanol (100 ml) and isopropanol (50 ml) and acidified with HCl gas. A white solid crystallized which was collected by filtration, recrystallized from methanol/water, and vacuum dried at 110° for 24 hours to give 7.1 g cis-1,3,4,6,7,11b-hexahydro-2-hexyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 221°-222°.

reactant | borane | 1.0 M | B | BH3
reactant | cis-1,3,4,6,7,11b-hexahydro-2-hexanoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline | 8.3 g | C(CCCCC)(=O)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C24H30N2O
reactant | HCl | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro-2-hexyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 7.1 g | Cl.Cl.C(CCCCC)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | InChI=1S/C24H32N2.2ClH/c1-2-3-4-10-15-25-16-17-26-18-23(20-11-6-5-7-12-20)21-13-8-9-14-22(21)24(26)19-25;;/h5-9,11-14,23-24H,2-4,10,15-19H2,1H3;2*1H/t23-,24-;;/m0../s1
